* C:\users\eg\Desktop\hdd\Documents\UTN\2023\Dispositivos\TPS\6\simulaciones\QuintaParte.asc
XU1 A1 0 G BT136
XU2 G N002 DB3
R1 N001 A1 4.7k
R2 N002 0 R=(1-V(A))*{RPOT}
R3 A1 N002 R=V(A)*RPOT
V2 A 0 PWL(0 1e-6 0.15 0.5)
V1 N001 0 SINE(0 {VCC} 50)
.inc /home/eg/.wine/drive_c/users/eg/AppData/Local/LTspice/lib/st_diacs_pspice/st_diacs.lib
.tran 0 0.15 0 20u
.inc /home/eg/.wine/drive_c/users/eg/AppData/Local/LTspice/lib/st_high-temp_H-series_triacs_Pspice/st_high-temperature_triacs.lib
.step param VCC list 50 75 90 105
.param RPOT=5k
.backanno
.end
